US05780642
A mixture of N-{2-[4-(1-amino-1-methylethyl)phenyl]ethyl}-4-methoxybenzenesulphonamide (0.97 g), 3-(1-benzylimidazol-2-yl)propionaldehyde (0.66 g), 4A molecular sieves (0.7 g) and acetonitrile (15 ml) was stirred at ambient temperature for 18 hours. The mixture was filtered and the filtrate evaporated under reduced pressure to give a residue which was dissolved in absolute ethanol (15 ml). Sodium borohydride (0.18 g) was added to the ethanolic solution and the mixture was boiled under reflux for 3 hours. The solvent was removed under reduced pressure and water was added to the residue followed by dilute hydrochloric acid to give an acidic mixture. After 20 minutes the mixture was basified with dilute sodium hydroxide solution and extracted with ethyl acetate to give an oil which was purified with flash column chromatography on silica to give N-[2-(4-{1-[3-(1-benzylimidazol-2-yl)propylamino]-1-methylethyl}phenyl)ethyl]-4-methoxybenzenesulphonamide. A mixture of this product (0.61 g), absolute ethanol (30 ml), ammonium formate (0.42 g) and 10% palladium on carbon (0.91 g) was boiled under reflux for 1 hour. The mixture was filtered and the filtrate was evaporated under reduced pressure to give a residue which was purified by flash column chromatography on silica using ethyl acetate/methanol/triethylamine (18:1:1) as the mobile phase to give N-[2-(4-{1-[3-(imidazol-2-yl)propylamino]-1-methylethyl}phenyl)ethyl]-4-methoxybenzenesulphonamide as an oil.

reactant | N-{2-[4-(1-amino-1-methylethyl)phenyl]ethyl}-4-methoxybenzenesulphonamide | 0.97 g | NC(C)(C)C1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)OC | C18H24N2O3S
reactant | 3-(1-benzylimidazol-2-yl)propionaldehyde | 0.66 g | C(C1=CC=CC=C1)N1C(=NC=C1)CCC=O | C13H14N2O
reactant | Sodium borohydride | 0.18 g | [BH4-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | N-[2-(4-{1-[3-(1-benzylimidazol-2-yl)propylamino]-1-methylethyl}phenyl)ethyl]-4-methoxybenzenesulphonamide | C(C1=CC=CC=C1)N1C(=NC=C1)CCCNC(C)(C)C1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)OC | C31H38N4O3S
